US04260816
Ethyl p-{[2-(4-chloro-1-naphthyloxy)propyl]amino}benzoate
To a cold, stirred solution of ethyl p-[2-(4-chloro-1-naphthyloxy)propionamido]benzoate (9.5 g.) in 100 ml. dry tetrahydrofuran is added slowly 35 ml. of 1 M diborane in tetrahydrofuran. The reaction mixture is stirred at room temperature for 20 minutes, then refluxed for 31/2 hours. The mixture is poured onto 500 ml. of ice, giving a cloudy solution. After saturating this solution with sodium chloride, it is extracted twice with ether and twice with chloroform. The combined organic phases are dried and flash-evaporated to a yellow oil. The oil is dissolved in a small amount of ethyl acetate and hexane and purified on a column of silica gel, giving a white powder, m.p. 122° C.

reactant | ethyl p-[2-(4-chloro-1-naphthyloxy)propionamido]benzoate | 9.5 g | ClC1=CC=C(C2=CC=CC=C12)OC(C(=O)NC1=CC=C(C(=O)OCC)C=C1)C | C22H20ClNO4
reactant | diborane | 1 M | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl p-{[2-(4-chloro-1-naphthyloxy)propyl]amino}benzoate | ClC1=CC=C(C2=CC=CC=C12)OC(CNC1=CC=C(C(=O)OCC)C=C1)C | C22H22ClNO3
